US06284748B1
A solution of N9-phenethyl-8-methoxycarbonyladenine (1 mmol) in tetrahydrofuran was treated with lithium aluminum hydride (1 mmol) at 0° C. for 1 h. Extraction and chromatography gave N9-phenethyl-8-hydroxymethyl-adenine as a white solid. TLC: Rf=0.31, 10% MeOH—CH2Cl2.

reactant | N9-phenethyl-8-methoxycarbonyladenine | 1 mmol | C(CC1=CC=CC=C1)N1C2=NC=NC(=C2N=C1C(=O)OC)N | C15H15N5O2
reactant | lithium aluminum hydride | 1 mmol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N9-phenethyl-8-hydroxymethyl-adenine | C(CC1=CC=CC=C1)N1C2=NC=NC(=C2N=C1CO)N | C14H15N5O
